US07129354B2
Preparation of 2-(3-pyridinyloxy)ethanol
3-hydroxypyridine (20.0 kg), ethylene carbonate (19.4 kg), K2CO3 (18.9 kg), and DMF (75.5 kg) were charged to a 400 L reactor and heated to 86° C. After 13 h, an aliquot was taken. There was still some 3-hydroxypyridine left by GC so more ethylene carbonate (1.0 kg) was added. After 20 h, the reaction was deemed complete. The reaction was cooled to 20° C., H2O (85 L) was slowly added to the 400 L reactor, and stirring continued for 30 min. The title compound was extracted with 35° C. CH2Cl2 (4×170 L) sending the CH2Cl2 extractions into the 1000 L portable tank. The aqueous layer was discarded, and the 400 L reactor was cleaned. The solution of the title compound in the 1000 L portable tank was transferred to the 400 L and distilled in the 400 L reactor sending the distillate to the 400 L receiver. Toluene (200 L) was added to the 400 L reactor and distilled sending the distillate to the 400 L receiver. The resulting oil was transferred to a 20 L glass bottle to produce 21.0 kg (72%) of the title compound of 100.0% GC purity.

reactant | 3-hydroxypyridine | 20.0 kg | OC=1C=NC=CC1 | C5H5NO
reactant | ethylene carbonate | 19.4 kg | C1(OCCO1)=O | C3H4O3
reactant | K2CO3 | 18.9 kg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 75.5 kg | CN(C)C=O | C3H7NO
catalyst | ethylene carbonate | 1.0 kg | C1(OCCO1)=O | C3H4O3
solvent | H2O | 85 L | O | H2O
product | 2-(3-pyridinyloxy)ethanol | 21.0 kg, 72% | N1=CC(=CC=C1)OCCO | C7H9NO2
